US06812238B1
To a suspension of 2-chloronicotinic acid (37.8 g, 0.240 mol) in dry DCM (150 mL) and DMF (0.1 mL) cooled in an ice-bath was added oxalyl chloride (22.9 mL, 0.264 mol) dropwise over a period of 15 min. After stirring for 1 h at 0° C., the reaction mixture was heated to reflux for 6 h (the mixture became a clear brownish solution). The solvent and the excess oxalyl chloride was evaporated under reduced pressure. Toluene (100 mL) was added to the residue and the mixture was evaporated. The obtaining residue was purified by vacuum distillation to give 2-chloronicotinoyl chloride (41.7 g, 99%); bp 98-100° C./2 mmHg, mp 38-39° C. (from Lancaster catalog). Caution: Distillation may need a special care due to the high melting point of the product.

reactant | 2-chloronicotinic acid | 0.240 mol, 37.8 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | oxalyl chloride | 0.264 mol, 22.9 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-chloronicotinoyl chloride | 41.7 g, 99% | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
